US03960542
The intermediate 2-(2,3,6-trichlorophenylmethylthio)pyridine N-oxide is prepared from 2,3,6-trichlorobenzylchloride and 2-mercaptopyridine N-oxide sodium salt by the procedure employed in Example 3. Melting point 232° - 234°C. Yield quantitative. Structure confirmed by IR and NMR.

reactant | 2,3,6-trichlorobenzylchloride | ClC1=C(CCl)C(=CC=C1Cl)Cl | C7H4Cl4
reactant | 2-mercaptopyridine N-oxide sodium salt | [Na].SC1=[N+](C=CC=C1)[O-]
product | 2-(2,3,6-trichlorophenylmethylthio)pyridine N-oxide | ClC1=C(C(=CC=C1Cl)Cl)CSC1=[N+](C=CC=C1)[O-] | C12H8Cl3NOS
